US07326791B2
rac.-N-[(5-chloro-1H-benzimidazol-2-yl)-(2-chlorophenyl)methyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide
Prepared analogously to Example 1g from 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid, TBTU, diisopropylethylamine, and C-(5-chloro-1H-benzimidazol-2-yl)-C-(2-chlorophenyl)methylamine in dimethylformamide. Yield: 63%; Rf value: 0.?? (silica gel; dichloromethane/methanol=95:5); C27H24Cl2N4O2 (507.42); mass spectrum: (M−H)-=505/507/509 (chlorine isotope).

reactant | 3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzoic acid | CC=1C=C(C(=O)O)C=CC1C(=O)N1CCCC1 | C13H15NO3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | C-(5-chloro-1H-benzimidazol-2-yl)-C-(2-chlorophenyl)methylamine | ClC1=CC2=C(NC(=N2)C(C2=C(C=CC=C2)Cl)N)C=C1 | C14H11Cl2N3
reactant | chlorine | ClCl | Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane methanol | ClCCl.CO
product | rac.-N-[(5-chloro-1H-benzimidazol-2-yl)-(2-chlorophenyl)methyl]-3-methyl-4-(pyrrolidin-1-ylcarbonyl)benzamide | Yield: 63% | ClC1=CC2=C(NC(=N2)C(NC(C2=CC(=C(C=C2)C(=O)N2CCCC2)C)=O)C2=C(C=CC=C2)Cl)C=C1 | C27H24Cl2N4O2
